US09034866B2
Into a 3000-mL 4-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen was placed a solution of 9-bromo-10-fluoro-3,4-diiodo-2,5-diazatetracyclo[11.1.1.0[2,6]. 0[7,12]]pentadeca-3,5,7,9,11-pentaene (252 g, 462.45 mmol, 1.00 equiv) in tetrahydrofuran (2000 mL), followed by the addition of EtMgBr (163 mL, 1.05 equiv, 3 M) dropwise with stirring at −40° C. over 30 min. The resulting solution was stirred at −40° C. for 30 min, quenched by the addition of 200 mL of NH4Cl (sat) and extracted with 2×1000 mL of ethyl acetate. The organic layers were combined, washed with 1×1000 mL of water and 1×1000 mL of brine, dried over anhydrous sodium sulfate and concentrated under vacuum to afford 173 g (89%) of 9-bromo-10-fluoro-4-iodo-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene as a red solid.

reactant | 9-bromo-10-fluoro-3,4-diiodo-2,5-diazatetracyclo[11.1.1.0[2,6]. 0[7,12]]pentadeca-3,5,7,9,11-pentaene | 462.45 mmol, 252 g, 1.00 equiv | BrC=1C=C2C3=NC(=C(N3C3CC(C2=CC1F)C3)I)I | C13H8BrFI2N2
reactant | EtMgBr | 3 M, 163 mL, 1.05 equiv | CC[Mg+].[Br-]
solvent | tetrahydrofuran | 2000 mL | O1CCCC1 | C4H8O
product | 9-bromo-10-fluoro-4-iodo-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene | 173 g, 89% | BrC=1C=C2C3=NC(=CN3C3CC(C2=CC1F)C3)I | C13H9BrFIN2
